US06284905B1
5A) Preparation of Diisopropylaminoboron dichloride
To a methylene chloride solution of trichloroborane (1.0 M, 100 ml, 0.10 mole) was added dropwise at −78° C. diisopropylamine (13.108 ml, 0.100 mole) over a 30 minute period. The solution was allowed to stir for 1 hour, during which a white precipitate formed. The mixture was allowed to warm to room temperature, and solvent was removed under reduced pressure. The residue was dissolved in 100 ml of dry toluene, triethylamine (13.94 ml, 0.10 mole) was added and the solution was stirred overnight at room temperature. The mixture was filtered, the residue was washed with 20 ml of toluene. Solvent was removed under reduced pressure from the combined filtrates, and the resulting oil was purified by vacuum distillation (25-28° C., 13 Pa, 0.1 mm) to give 9.2 g (51 percent) of product as a colorless liquid.

reactant | trichloroborane | 0.10 mole, 1.0 M, 100 ml | ClB(Cl)Cl | BCl3
reactant | diisopropylamine | 0.100 mole, 13.108 ml | C(C)(C)NC(C)C | C6H15N
reactant | triethylamine | 0.10 mole, 13.94 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Diisopropylaminoboron dichloride | 9.2 g, 51 percent | C(C)(C)N(C(C)C)B(Cl)Cl | C6H14BCl2N
